US06207847B1
To a vial containing 0.03 grams of this (S)-catalyst was added a solution of azidotrimethylsilane (0.34 g, 2.95 mmol) and cyclohexene oxide (0.24 g, 2.45 mmol) in a mixture of allyl bromide (4.0 mL) and chlorobenzene (4.0 mL). After 48 h the volatiles were removed at reduced pressure and the residue was purified by flash chromatography on 220-400 mesh silica with 98% hexane and 2% ether as eluant. The product (1S,2S)-1-bromo-2-trimethysiloxycyclohexane (0.44 g, 71%) was isolated by distillation of the solvent at reduced pressure. Anal. for C9H19OSiBr: Calcd: C, 43.03; H, 7.62; Br, 31.80; found: C, 43.06; H, 7.69; Br, 31.78. 1H NMR: d 0.19 (s, 9 H), 1.24-1.46 (m, 3 H), 1.64-1.87 (m, 3 H), 2.01 (m, 1 H), 2.35 (m, 1 H), 3.66 (m, 1 H), 3.87 (m, 1 H). 13C NMR: d 24.15, 25.70, 34.96, 35.62, 58.44, 75.38. [a]D25=+39.0, c=1.02 g/100 mL chloroform. Chiral capillary gas chromatographic analysis at 120° C. on Cyclodex B stationary phase indicated that the enantiomeric excess of the product was 85%.

reactant | azidotrimethylsilane | 2.95 mmol, 0.34 g | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | cyclohexene oxide | 2.45 mmol, 0.24 g | C12C(CCCC1)O2 | C6H10O
reactant | allyl bromide | 4.0 mL | C(C=C)Br | C3H5Br
solvent | chlorobenzene | 4.0 mL | ClC1=CC=CC=C1 | C6H5Cl
product | (1S,2S)-1-bromo-2-trimethysiloxycyclohexane | 0.44 g, 71% | Br[C@@H]1[C@H](CCCC1)O[Si](C)(C)C | C9H19BrOSi
